US06329389B1
4-Benzyl-1,2,3,4-tetrahydro-N,N-dimethyl-3-oxo-2-quinoxalinecarboxamide
4-Benzyl-N,N-dimethyl-3,4-dihydro-3-oxo-2-quinoxalinecarboxamide (1.47 g) was added and dissolved in ice-cooled trifluoroacetic acid (45 ml), to which was further added triethyl silane (4.6 ml). The reaction mixture was stirred at room temperature for 3 hours, then concentrated. The residue was dissolved in ethyl acetate and washed with 10% aqueous potassium carbonate solution, water and a saturated aqueous sodium chloride solution, then dried and concentrated. The obtained crystals were washed with IPE to obtain the entitled compound (1.33 g).

reactant | 4-Benzyl-N,N-dimethyl-3,4-dihydro-3-oxo-2-quinoxalinecarboxamide | 1.47 g | C(C1=CC=CC=C1)N1C(C(=NC2=CC=CC=C12)C(=O)N(C)C)=O | C18H17N3O2
reactant | trifluoroacetic acid | 45 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethyl silane | 4.6 ml | C(C)[SiH](CC)CC | C6H16Si
product | 4-Benzyl-1,2,3,4-tetrahydro-N,N-dimethyl-3-oxo-2-quinoxalinecarboxamide | 1.33 g | C(C1=CC=CC=C1)N1C(C(NC2=CC=CC=C12)C(=O)N(C)C)=O | C18H19N3O2
